US06525077B2
α-Chlorobenzyl 2-(2-(2-methoxyethoxy)-ethoxy)-ethyl carbonate
α-Chlorobenzyl chloroformate (1 g) was added to an ice-cold solution of triethyleneglycol monomethylether (0.7 ml) in dichloromethane (5 ml) followed by pyridine (0.43 ml) at such a rate that the temperature was kept below 10° C. After stirring overnight at room temperature the reaction mixture was washed twice with 0.5 M HCl followed by water and aqueous sodium bicarbonate. Drying over magnesium sulfate, filtration, evaporation in vacuo followed by chromatography on silica gel with hexane/ethyl acetate (1:1) as eluent gave the title compound as a colourless oil.

reactant | α-Chlorobenzyl chloroformate | 1 g | ClC(=O)OC(C1=CC=CC=C1)Cl | C8H6Cl2O2
reactant | triethyleneglycol monomethylether | 0.7 ml | COCCOCCOCCO | C7H16O4
reactant | pyridine | 0.43 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | α-Chlorobenzyl 2-(2-(2-methoxyethoxy)-ethoxy)-ethyl carbonate | C(OC(C1=CC=CC=C1)Cl)(OCCOCCOCCOC)=O | C15H21ClO6
